US04898977
6-cyclohexyl-2-isopropyl-4-hexenoic acid
23.15 g (0.15 mol) of 1-cyclohexyl-3-buten-2-ol, 6.85 g (0.03 mol) of tetraethyl orthotitanate and 61.5 ml (0.30 mol) of isopropylmalonic acid diethyl ester are placed in a flask and stirred for 1 hour at 170° and then for 24 hours at 200°. Excess malonic acid ester is distilled off at 20 mbar, and the residue is dissolved in 120 ml of ethanol and, after the addition of 120 ml of 6N KOH, stirred under reflux for 7 hours. After cooling, the reaction mixture is filtered and the filtrate is extensively concentrated by evaporation in a rotary evaporator. The aqueous phase is extracted once with ether, acidified to pH 1 with 6N HCl while cooling with ice and then extracted three times with ether. The combined organic phases are washed with brine, dried with MgSO4 and concentrated by evaporation in a rotary evaporator. The residue is distilled at 137°-140°/0.025 mbar.

reactant | 1-cyclohexyl-3-buten-2-ol | 0.15 mol, 23.15 g | C1(CCCCC1)CC(C=C)O | C10H18O
reactant | isopropylmalonic acid diethyl ester | 0.30 mol, 61.5 ml | C(C)OC(C(C(=O)OCC)C(C)C)=O | C10H18O4
catalyst | tetraethyl orthotitanate | 0.03 mol, 6.85 g | CCO.CCO.CCO.CCO.[Ti]
product | 6-cyclohexyl-2-isopropyl-4-hexenoic acid | C1(CCCCC1)CC=CCC(C(=O)O)C(C)C | C15H26O2
